US08114868B2
4-Bromo-5-fluoro-1-methyl-1H-pyridin-2-one
Methyl iodide (0.9 mL) was added to a mixture of potassium carbonate (2.34 g) and 4-bromo-5-fluoro-1H-pyridin-2-one (2.50 g) in dimethylformamide (25 mL) at room temperature. The mixture was stirred at room temperature overnight and then water was added. The resulting mixture was extracted with ethyl acetate and the combined extracts were washed with brine and dried (MgSO4). The solvent was evaporated to afford the crude title compound that was recrystallized from Et2O. Yield: 1.22 g (45% of theory); Mass spectrum (ESI+): m/z=206/208 (Br) [M+H]+.

reactant | Methyl iodide | 0.9 mL | CI | CH3I
reactant | potassium carbonate | 2.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-5-fluoro-1H-pyridin-2-one | 2.50 g | BrC1=CC(NC=C1F)=O | C5H3BrFNO
reactant | water | O | H2O
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 4-Bromo-5-fluoro-1-methyl-1H-pyridin-2-one | BrC1=CC(N(C=C1F)C)=O | C6H5BrFNO
